US06239286B1
1-cyano-1-n-pentanoylaminocyclopentane
To 11.0 g (0.1 mol) of 1-amino-1-cyanocyclopentane dissolved in 100 ml of dichloromethane, 15 ml 10.9 g (0.1 mol) of triethylamine was added, then dropwise 13 ml, 13 g (0.1 mol) of valeroyl chloride, while keeping the temperature at 25-35° C. The reaction mixture was stirred at 30-35° C. for 2 hours, then it was washed with water. The phases were separated, the organic phase was evaporated to obtain the pure title compound as an oil. The compound was identified by elementary analysis, IR, NMR and GC-MS spectomety.

reactant | 1-amino-1-cyanocyclopentane | 0.1 mol, 11.0 g | NC1(CCCC1)C#N | C6H10N2
reactant | triethylamine | 0.1 mol, 15 ml, 10.9 g | C(C)N(CC)CC | C6H15N
reactant | valeroyl chloride | 0.1 mol, 13 ml, 13 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-cyano-1-n-pentanoylaminocyclopentane | C(#N)C1(CCCC1)NC(CCCC)=O | C11H18N2O
